US03994907
5 parts of 2-hydroxy-4-ethoxy benzaldehyde and 7 parts of the ethyl ester of 3-phenyl-1,2,4-oxadiazole-5-acetic acid are dissolved in 80 parts of ethanol, then 0.3 part of piperidine is added. The mixture is heated under reflux for one hour, then the precipitate obtained after cooling is filtered. 8 parts of 7-ethoxy-3-(3-phenyl 1,2,4-oxadiazol-5-yl) coumarin are obtained which melts at 229° C. after crystallization in dioxane.

reactant | 2-hydroxy-4-ethoxy benzaldehyde | OC1=C(C=O)C=CC(=C1)OCC | C9H10O3
reactant | 3-phenyl-1,2,4-oxadiazole-5-acetic acid | C1(=CC=CC=C1)C1=NOC(=N1)CC(=O)O | C10H8N2O3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 7-ethoxy-3-(3-phenyl 1,2,4-oxadiazol-5-yl) coumarin | C(C)OC1=CC=C2C=C(C(OC2=C1)=O)C1=NC(=NO1)C1=CC=CC=C1 | C19H14N2O4
